### PR TITLE
[Merged by Bors] - feat(Topology): add `ContinuousOn` union API lemmas

### PR DESCRIPTION
**Pull request by vlad902**
Add lemmas to allow going from continuity on two open sets to continuity on their union. Note that there is already an existing lemma for continuity on the union of two closed sets.

### CODE REVIEW

File: Mathlib/Topology/ContinuousOn.lean [hunk 1]
```diff
@@ -1509,6 +1516,12 @@ theorem ContinuousOn.union_isClosed {X Y : Type*} [TopologicalSpace X] [Topologi
   · refine if hx : x ∈ t then hft x hx else continuousWithinAt_of_not_mem_closure ?_
     rwa [ht.closure_eq]
 
+/-- If a function is continuous on two open sets, it is also continuous on their union. -/
+theorem ContinuousOn.union_isOpen {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y]
+    {s t : Set X} (hs : IsOpen s) (ht : IsOpen t) {f : X → Y} (hfs : ContinuousOn f s)
+    (hft : ContinuousOn f t) : ContinuousOn f (s ∪ t) :=
+  union_continuousAt hs hfs fun _ hx ↦ IsOpen.continuousOn_iff ht |>.mp hft hx
+
```
Comment (Paul-Lez) [inline Mathlib/Topology/ContinuousOn.lean:1524]: It might also we worth adding the following lemma whilst we're at it!
```suggestion

theorem ContinouousOn_union_isOpen_iff {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y]
    {s t : Set X} (hs : IsOpen s) (ht : IsOpen t) {f : X → Y} :
    ContinuousOn f (s ∪ t) ↔ ContinuousOn f s ∧ ContinuousOn f t :=
  ⟨fun hf ↦ continuousOn_of_union hf, fun ⟨hfs, hft⟩ ↦ hfs.union_isOpen hs ht hft⟩
```

File: Mathlib/Topology/ContinuousOn.lean [hunk 2]
```diff
@@ -1498,6 +1498,13 @@ lemma ContinuousOn.union_continuousAt
   (fun h => ContinuousWithinAt.continuousAt (continuousWithinAt hs h) <| IsOpen.mem_nhds s_op h)
   (ht _)
 
+/-- If a function is continuous on the union of two sets, it is continuous on both of them. -/
+theorem continuousOn_of_union {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y]
```
Comment (Paul-Lez) [inline Mathlib/Topology/ContinuousOn.lean:1502]: Small nitpick: this file already has `α β` as topological spaces, so I think it would be cleaner to use those variables 
(and perhaps `ContinuousOn.union_continuousAt` and `ContinuousOn.union_isClosed` should also be changed in a similar manner)

Comment (grunweg) [reply Mathlib/Topology/ContinuousOn.lean:1502]: *If* you care about using Greek letters, you should file a preliminary PR renaming all the occurrences in the file. (I would certainly review such a PR.)

File: Mathlib/Topology/ContinuousOn.lean [hunk 3]
```diff
@@ -1498,6 +1498,13 @@ lemma ContinuousOn.union_continuousAt
...
+    {s t : Set X} {f : X → Y} (h : ContinuousOn f (s ∪ t)) :
+    ContinuousOn f s ∧ ContinuousOn f t :=
```
Comment (grunweg) [inline Mathlib/Topology/ContinuousOn.lean:1504]: It's a bit unusual to have a theorem whose conclusion is a conjunction of statements. Usually, one would have separate statements for each.

File: Mathlib/Topology/ContinuousOn.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Topology/ContinuousOn.lean:1524]: ContinuousOn.union_isOpen should be called `ContinuousOn.union_of_isOpen` - since `isOpen` is one of the hypotheses.

Comment (grunweg) [reply Mathlib/Topology/ContinuousOn.lean:1524]: And I believe most other files would name the new lemma `continouousOn_union_isOpen`

File: Mathlib/Topology/ContinuousOn.lean (hunk 2 above)
Comment (Paul-Lez) [reply Mathlib/Topology/ContinuousOn.lean:1502]: Done in #22691 (just to clarify, my intention wasn't to suggest that these results *should* be stated with Greek letters, but rather that it might be nicer to stay consistent with the notation of (the majority of) the file)

Comment (grunweg) [reply Mathlib/Topology/ContinuousOn.lean:1502]: I would say they should use Roman letters (usually) - but also that changing all files manually is a lot of work that might not be the best use of one's time.

Comment (Paul-Lez) [reply Mathlib/Topology/ContinuousOn.lean:1502]: That sounds reasonable - good to know:)

**Comment by vlad902** [comment]
Done, thanks for the feedback

File: Mathlib/Topology/ContinuousOn.lean [hunk 4]
```diff
@@ -1500,17 +1500,44 @@ lemma ContinuousOn.union_continuousAt {f : α → β} (s_op : IsOpen s)
...
+/-- A function is continuous on two closed sets iff it is also continuous on their union. -/
+theorem continouousOn_union_isClosed (hs : IsClosed s) (ht : IsClosed t) {f : α → β} :
+    ContinuousOn f (s ∪ t) ↔ ContinuousOn f s ∧ ContinuousOn f t :=
+  ⟨fun h ↦ ⟨continuousOn_of_union_left h, continuousOn_of_union_right h⟩,
+   fun h ↦ ContinuousOn.union_of_isClosed hs ht h.1 h.2⟩
+
+/-- If a function is continuous on two open sets, it is also continuous on their union. -/
+theorem ContinuousOn.union_of_isOpen (hs : IsOpen s) (ht : IsOpen t) {f : α → β}
+    (hfs : ContinuousOn f s) (hft : ContinuousOn f t) : ContinuousOn f (s ∪ t) :=
+  union_continuousAt hs hfs fun _ hx ↦ IsOpen.continuousOn_iff ht |>.mp hft hx
```
Comment (grunweg) [inline Mathlib/Topology/ContinuousOn.lean:1533]: You can use dot notation here: `ht.continuousOn_iff`

File: Mathlib/Topology/ContinuousOn.lean [hunk 5]
```diff
@@ -1500,17 +1500,44 @@ lemma ContinuousOn.union_continuousAt {f : α → β} (s_op : IsOpen s)
...
+alias ContinuousOn.union_isClosed := ContinuousOn.union_of_isClosed
+
+/-- A function is continuous on two closed sets iff it is also continuous on their union. -/
+theorem continouousOn_union_isClosed (hs : IsClosed s) (ht : IsClosed t) {f : α → β} :
+    ContinuousOn f (s ∪ t) ↔ ContinuousOn f s ∧ ContinuousOn f t :=
+  ⟨fun h ↦ ⟨continuousOn_of_union_left h, continuousOn_of_union_right h⟩,
+   fun h ↦ ContinuousOn.union_of_isClosed hs ht h.1 h.2⟩
+
+/-- If a function is continuous on two open sets, it is also continuous on their union. -/
+theorem ContinuousOn.union_of_isOpen (hs : IsOpen s) (ht : IsOpen t) {f : α → β}
```
Comment (grunweg) [inline Mathlib/Topology/ContinuousOn.lean:1531]: Should this be called `continuousOn_union_of_isOpen`? @YaelDillies as you're a local naming expert

Comment (grunweg) [reply Mathlib/Topology/ContinuousOn.lean:1531]: (Note that there is also an iff version below, so perhaps a slightly different name is needed.)

Comment (grunweg) [reply Mathlib/Topology/ContinuousOn.lean:1531]: If the current name is fine, the `ContinuousOn` hypothesis should come first.

**Review by grunweg — COMMENTED** [review]
Thanks: this PR looks basically good to me - except for a naming question I'm not sure about.

File: Mathlib/Topology/ContinuousOn.lean [hunk 6]
```diff
@@ -1500,17 +1500,44 @@ lemma ContinuousOn.union_continuousAt {f : α → β} (s_op : IsOpen s)
   (fun h => ContinuousWithinAt.continuousAt (continuousWithinAt hs h) <| IsOpen.mem_nhds s_op h)
   (ht _)
 
+/-- If `f` is continuous on `s ∪ t`, it is continuous on `s`. -/
+theorem continuousOn_of_union_left {f : α → β} (h : ContinuousOn f (s ∪ t)) : ContinuousOn f s :=
+  fun x hx ↦ continuousWithinAt_union.mp (h x (mem_union_left t hx)) |>.1
```
Comment (peabrainiac) [inline Mathlib/Topology/ContinuousOn.lean:1505]: This should just be `h.mono s.subset_union_left`, I think - same thing for the right version too. I'm a bit sceptical that we really need those lemmas since they're such simple applications of `ContinuousOn.mono`, though I'm definitely in favour of adding the iff lemmas you wrote.

File: Mathlib/Topology/ContinuousOn.lean [hunk 7]
```diff
@@ -1500,17 +1500,44 @@ lemma ContinuousOn.union_continuousAt {f : α → β} (s_op : IsOpen s)
...
     rwa [ht.closure_eq]
 
+@[deprecated ContinuousOn.union_of_isClosed (since := "2025-04-10")]
+alias ContinuousOn.union_isClosed := ContinuousOn.union_of_isClosed
+
+/-- A function is continuous on two closed sets iff it is also continuous on their union. -/
+theorem continouousOn_union_isClosed (hs : IsClosed s) (ht : IsClosed t) {f : α → β} :
+    ContinuousOn f (s ∪ t) ↔ ContinuousOn f s ∧ ContinuousOn f t :=
+  ⟨fun h ↦ ⟨continuousOn_of_union_left h, continuousOn_of_union_right h⟩,
+   fun h ↦ ContinuousOn.union_of_isClosed hs ht h.1 h.2⟩
```
Comment (peabrainiac) [inline Mathlib/Topology/ContinuousOn.lean:1528]: I think you can also use dot notation here.

File: Mathlib/Topology/ContinuousOn.lean (hunk 6 above)
Comment (vlad902) [reply Mathlib/Topology/ContinuousOn.lean]: Oh that's much shorter and better, I've replaced it and gotten rid of those methods, thanks!

**Comment by peabrainiac** [comment]
This looks mostly good to me now - thanks.

Regarding the question Michael raised earlier, my suggestion would be to rename `continuousOn_union_of_isOpen` to `continuousOn_union_iff_of_isOpen` for clarity but keep `ContinuousOn.union_of_isOpen` as it is - it seems like a useful lemma to have dot notation for. He's also right that a more sensible order of arguments is probably `hfs`, `hft`, `hs`, `ht`, though I have no particularly strong preference there. The same goes for the closed counterparts of course.

**Comment by vlad902** [comment]
> This looks mostly good to me now - thanks.
> 
> Regarding the question Michael raised earlier, my suggestion would be to rename `continuousOn_union_of_isOpen` to `continuousOn_union_iff_of_isOpen` for clarity but keep `ContinuousOn.union_of_isOpen` as it is - it seems like a useful lemma to have dot notation for. He's also right that a more sensible order of arguments is probably `hfs`, `hft`, `hs`, `ht`, though I have no particularly strong preference there. The same goes for the closed counterparts of course.

updated names / param ordering

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
